US07291632B2
Preparation 19. 1-Methyl-4-(3-chloro-2-fluorophenylamino)piperidine
Combine 3-chloro-2-fluoroaniline (4.37 g, 30 mmol), 1-methylpiperidin-4-one (3.39 g, 30 mmol), sodium triacetoxyborohydride (5.26 g, 33 mmol), and acetic acid (5.4 g, 90 mmol) and stir at room temperature overnight. Partition the reaction mixture between dichloromethane and saturated aqueous NaCl containing NH4OH, dry over anhydrous sodium sulfate, evaporate and purify on a silica gel columnn (110 g), using a gradient of dichloromethane-2M NH3 in methanol to give 2.34 g of the title compound (32% yield): mass spectrum (ion spray): m/z=243 (M+1); 1H NMR (CDCl3): 6.88 (ddd,1H), 6.63 (ddd, 1H), 6.56 (dd, 1H), 3.85 (br d, 1H), 3.28 (m, 1H), 2.80 (m, 2H), 2.30 (s, 3H), 2.13 (m, 2H), 2.04 (m, 1H), 1.53 (m, 2H). (file: mn4-b6k-284-2)

reactant | 3-chloro-2-fluoroaniline | 30 mmol, 4.37 g | ClC=1C(=C(N)C=CC1)F | C6H5ClFN
reactant | 1-methylpiperidin-4-one | 30 mmol, 3.39 g | CN1CCC(CC1)=O | C6H11NO
reactant | sodium triacetoxyborohydride | 33 mmol, 5.26 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 90 mmol, 5.4 g | C(C)(=O)O | C2H4O2
product | 1-Methyl-4-(3-chloro-2-fluorophenylamino)piperidine | 2.34 g, 32% yield | CN1CCC(CC1)NC1=C(C(=CC=C1)Cl)F | C12H16ClFN2
